US07381840B2
To a stirred solution of 8-amino-1,2,3,4-tetrahydro-naphthalen-2-ol (500 mg, 3.06 mmol) and 3-bromophenylacetic acid (725 mg, 3.37 mmol) in DMF was added triethylamine (465 mg, 4.60 mmol), 1-hydroxybenzotriazole (497 mg, 3.68 mmol), and 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride (705 mg, 3.68 mmol). The mixture was stirred for 16 hours at room temperature. To the product mixture was added water and extracted with ethylacetate. The organic layer was washed with aqueous HCl solution then aqueous NaOH solution and brine, dried over MgSO4, filtered and concentrated under reduced pressure. The product was purified by silica gel column chromatography (hexane:acetone, 2:1) to afford 2-(3-bromophenyl)-N-(7-hydroxy-5,6,7,8-tetrahydronaphthalen-1-yl)acetamide (130 mg, 12% yield).

reactant | 8-amino-1,2,3,4-tetrahydro-naphthalen-2-ol | 3.06 mmol, 500 mg | NC=1C=CC=C2CCC(CC12)O | C10H13NO
reactant | 3-bromophenylacetic acid | 3.37 mmol, 725 mg | BrC=1C=C(C=CC1)CC(=O)O | C8H7BrO2
reactant | triethylamine | 4.60 mmol, 465 mg | C(C)N(CC)CC | C6H15N
reactant | 1-hydroxybenzotriazole | 3.68 mmol, 497 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride | 3.68 mmol, 705 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | DMF | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-(3-bromophenyl)-N-(7-hydroxy-5,6,7,8-tetrahydronaphthalen-1-yl)acetamide | 130 mg, 12% yield | BrC=1C=C(C=CC1)CC(=O)NC1=CC=CC=2CCC(CC12)O | C18H18BrNO2
